US09238631B2
b) 3-(4-Iodophenyl)propan-1-ol
3-(4-iodophenyl)propanoic acid (Atlantic Research Chemicals Ltd.) (2.76 g, 10.00 mmol) were dissolved in tetrahydrofuran (100 mL) and added slowly to a suspension of lithium aluminium hydride (0.23 g, 6.00 mmol) in 100 mL tetrahydrofuran. The reaction was stirred for 3 h, then 1 N aqueous sodium hydrogen carbonate (150 mL) were added slowly and the resulting mixture was extracted with ethyl acetate (3×400 mL), the organic extracts were dried over magnesium sulfate and concentrated in vacuo. The crude product was purified on silica gel using a hexane/ethyl acetate gradient, and the appropriate fractions were combined and concentrated.

reactant | 3-(4-iodophenyl)propanoic acid | 10.00 mmol, 2.76 g | IC1=CC=C(C=C1)CCC(=O)O | C9H9IO2
reactant | lithium aluminium hydride | 6.00 mmol, 0.23 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | sodium hydrogen carbonate | 1 N, 150 mL | C(O)([O-])=O.[Na+]
solvent | tetrahydrofuran | 100 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 100 mL | O1CCCC1 | C4H8O
product | 3-(4-Iodophenyl)propan-1-ol | IC1=CC=C(C=C1)CCCO | C9H11IO
